US06995144B2
1-(tert-Butoxycarbonyl)-4-[2-(acetylamino)phenoxymethyl]piperidine
After dissolving 400 mg of 1-(tert-butoxycarbonyl)-4-(2-aminophenoxymethyl)piperidine in 10 ml of tetrahydrofuran, 0.15 ml of acetic anhydride and 0.24 ml of triethylamine were added and the mixture was stirred overnight at room temperature. The reaction solution was filtered with silica gel and NH silica gel. The solvent was distilled off under reduced pressure to obtain the title compound (459 mg, 100% yield).

reactant | 1-(tert-butoxycarbonyl)-4-(2-aminophenoxymethyl)piperidine | 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC=C1)N | C17H26N2O3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic anhydride | 0.15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
product | 1-(tert-Butoxycarbonyl)-4-[2-(acetylamino)phenoxymethyl]piperidine | 459 mg, 100% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC=C1)NC(C)=O | C19H28N2O4
